US04623662
1-[(4-Butylphenyl)methyl]-1-(6-chlorohexyl)-3-(4-chloro-2-methylphenyl)urea
A mixture of 2.0 g of 1-[(4-butylphenyl)methyl]-3-(4-chloro-2-methylphenyl)-1-[6-[(methylsulfonyl)oxy]-hexyl]urea, 0.74 g of potassium chloride, and 3.0 ml of dimethyl sulfoxide was heated at an oil bath temperature of 60°-80° C. for 16 hours. The mixture was diluted with water and extracted with dichloromethane. The organic layer was washed with three 40 ml portions of brine, dried over anhydrous magnesium sulfate and filtered. The filtrate was evaporated in vacuo to yield 1.5 g of a brown oil. The oil was purified by chromatography to yield 1.5 g of the desired product as a light yellow oil in 86% yield.

reactant | 1-[(4-butylphenyl)methyl]-3-(4-chloro-2-methylphenyl)-1-[6-[(methylsulfonyl)oxy]-hexyl]urea | 2.0 g | C(CCC)C1=CC=C(C=C1)CN(C(=O)NC1=C(C=C(C=C1)Cl)C)CCCCCCOS(=O)(=O)C | C26H37ClN2O4S
reactant | potassium chloride | 0.74 g | [Cl-].[K+]
reactant | dimethyl sulfoxide | 3.0 ml | CS(=O)C | C2H6OS
solvent | water | O | H2O
product | 1-[(4-Butylphenyl)methyl]-1-(6-chlorohexyl)-3-(4-chloro-2-methylphenyl)urea | 1.5 g, 86% yield | C(CCC)C1=CC=C(C=C1)CN(C(=O)NC1=C(C=C(C=C1)Cl)C)CCCCCCCl | C25H34Cl2N2O
